US08314098B2
(Step 3): N-(3-methyl-benzylidene)-N′-[2-(6-methyl-pyridin-3-yl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine
There was suspended, in ethanol (3 mL), [2-(6-methyl-pyridin-3-yl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine (70 mg, 0.22 mM) prepared in the preceding step 2, then acetic acid (6.3 μL, 0.11 mM) and metatolualdehyde (28 μL, 0.24 mM) were added to the suspension and the mixture was stirred at room temperature for 16 hours. The precipitated solid was recovered through filtration and then washed with diethyl ether to thus give the title compound (50.2 mg, yield: 53%).

reactant | [2-(6-methyl-pyridin-3-yl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine | 0.22 mM, 70 mg | CC1=CC=C(C=N1)C1=NN2C(N=C(C=C2N2CCOCC2)NN)=C1 | C16H19N7O
reactant | acetic acid | 0.11 mM, 6.3 μL | C(C)(=O)O | C2H4O2
reactant | metatolualdehyde | 0.24 mM, 28 μL | C1(=CC(=CC=C1)C=O)C | C8H8O
solvent | ethanol | 3 mL | C(C)O | C2H6O
product | N-(3-methyl-benzylidene)-N′-[2-(6-methyl-pyridin-3-yl)-7-morpholin-4-yl-pyrazolo[1,5-a]pyrimidin-5-yl]-hydrazine | 50.2 mg, yield: 53% | CC=1C=C(C=NNC2=NC=3N(C(=C2)N2CCOCC2)N=C(C3)C=3C=NC(=CC3)C)C=CC1 | C24H25N7O
